US04487929
A solution of 16.9 g of tert.butyl 2-(2-ethoxycarbonylacetyl)hexahydropyridazine-3-carboxylate in 350ml of glacial acetic acid was heated at 100° C. for 1.5 hours. Evaporation gave an oil which was chromatographed on silica gel to yield 9.45 g (66%)of tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of a pale yellow solid having a melting point of 121°-122° C. (from chloroform/hexane).

reactant | tert.butyl 2-(2-ethoxycarbonylacetyl)hexahydropyridazine-3-carboxylate | 16.9 g | C(C)OC(=O)CC(=O)N1NCCCC1C(=O)OC(C)(C)C | C14H24N2O5
solvent | acetic acid | 350ml | C(C)(=O)O | C2H4O2
product | tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 9.45 g, 66% | O=C1CC(N2N1CCCC2C(=O)OC(C)(C)C)=O | C12H18N2O4
